US07390830B1
EDCl (23 mg), HOBt (16.2 mg) and triethylamine (15.2 μL) were added to a chloroform (1 mL) solution of 2-(aminomethyl)-1-(4-chlorobenzyl)pyrrolidine (22.5 mg, 0.10 mmol) and dl-benzoylleucine (0.12 mL), and the resulting mixture was stirred at 25° C. for 16 hours. The reaction mixture was diluted with dichloromethane (0.5 mL), washed with a 2 M aqueous solution of NaOH (0.75 mL×2), filtered through a PTFE membrane, thereby dried and concentrated to provide 2-[(N-benzoylleucyl)aminomethyl]-1-(4-chlorobenzyl)pyrrolidine (Compd. No. 344) (74 mg, quantitative). The purity was determined by RPLC/MS (85%). ESI/MS m/e 442 (M++H, C23H32ClN3O2).

reactant | EDCl | 23 mg | CCN=C=NCCCN(C)C.Cl
reactant | HOBt | 16.2 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | 2-(aminomethyl)-1-(4-chlorobenzyl)pyrrolidine | 0.10 mmol, 22.5 mg | NCC1N(CCC1)CC1=CC=C(C=C1)Cl | C12H17ClN2
reactant | benzoylleucine | 0.12 mL | C(C1=CC=CC=C1)(=O)N[C@@H](CC(C)C)C(=O)O | C13H17NO3
solvent | dichloromethane | 0.5 mL | ClCCl | CH2Cl2
solvent | chloroform | 1 mL | C(Cl)(Cl)Cl | CHCl3
solvent | triethylamine | 15.2 μL | C(C)N(CC)CC | C6H15N
product | 2-[(N-benzoylleucyl)aminomethyl]-1-(4-chlorobenzyl)pyrrolidine | C(C1=CC=CC=C1)(=O)N[C@@H](CC(C)C)C(=O)NCC1N(CCC1)CC1=CC=C(C=C1)Cl | C25H32ClN3O2
